US07745641B2
In a similar manner to Step 1 of Example 289, 4-hydroxy-5-methyl-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (80.5 mg, 0.170 mmol) was dissolved in dichloromethane (3 mL), and the solution was treated with triethylamine (0.095 mL, 0.68 mmol) and methanesulfonyl chloride (0.026 mL, 0.34 mmol), followed by purification by slurry using hexane to obtain 4-methanesulfonyloxy-5-methyl-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (80.3 mg, yield 85%).

reactant | 4-hydroxy-5-methyl-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.170 mmol, 80.5 mg | OC1=C2CNC(C2=C(C=C1C)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C28H33N3O4
reactant | triethylamine | 0.68 mmol, 0.095 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.34 mmol, 0.026 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-methanesulfonyloxy-5-methyl-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 80.3 mg, yield 85% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1C)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C29H35N3O6S
